US09387200B2
a) 3-(2-Fluoro-phenyl)-4-hydroxy-7-(4-phenoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy Example 1 from 7-bromo-3-(2-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 4-phenoxyphenylboronic acid: MS (m/z) 487.1 (M+1).

reactant | 7-bromo-3-(2-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=C(C=CC=C2)F)O | C15H10BrFN2O3S
reactant | 4-phenoxyphenylboronic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
product | 3-(2-Fluoro-phenyl)-4-hydroxy-7-(4-phenoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)OC1=CC=CC=C1)SN=C2C2=C(C=CC=C2)F)O | C27H19FN2O4S
